US07943636B2
4-[(4-Amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]tetrahydro-2H-thiopyran-4-ol was prepared according to the method of Example 1 Part F using di(tert-butyl)2-ethyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate in lieu of di(tert-butyl)1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate and 4-oxothiane in lieu of cyclobutanone. The crude product was recrystallized from acetonitrile to provide 0.475 g of 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]tetrahydro-2H-thiopyran-4-ol as a white powder, mp 251.5-255° C.

reactant | di(tert-butyl)2-ethyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | C(C)(C)(C)C=1C=CC=2C=3C(C(=NC2C1C(C)(C)C)N(C(=O)[O-])C(=O)[O-])=NN(C3C)CC
reactant | di(tert-butyl)1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | C(C)(C)(C)C=1C=CC=2C=3C(C(=NC2C1C(C)(C)C)N(C(=O)[O-])C(=O)[O-])=NN(C3C)CCC
reactant | 4-oxothiane | O=C1CCSCC1 | C5H8OS
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]tetrahydro-2H-thiopyran-4-ol | 0.475 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC2(CCSCC2)O)CC | C18H22N4OS
